US07919504B2
1-(3-Fluoroisoquinoline-6-carbonyl)thiosemicarbazide.
A mixture of 3-fluoroisoquinoline-6-carboxylic acid (0.71 g, 3.72 mmol) and di(1H-imidazol-1-yl)methanone (1.21 g, 7.44 mmol) in DMF (9.0 mL) was stirred at room temperature for 1 hour and 20 minutes until no gas was evolved. The reaction mixture was heated at 70° C. for 40 minutes. Thiosemicarbazide (1.02 g, 11.2 mmol) was added, and the reaction mixture was stirred at 70° C. for another 30 minutes. The solvents were removed under reduced pressure. HCl (1.0 N, 50 mL) was added, and the solids were recovered by filtration, and washed with water to provide the product as an off-white solid (0.86 g, 89%). LCMS (API-ES) m/z: 265 (M+H+).

reactant | 3-fluoroisoquinoline-6-carboxylic acid | 3.72 mmol, 0.71 g | FC=1N=CC2=CC=C(C=C2C1)C(=O)O | C10H6FNO2
reactant | di(1H-imidazol-1-yl)methanone | 7.44 mmol, 1.21 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | Thiosemicarbazide | 11.2 mmol, 1.02 g | NNC(=S)N | CH5N3S
solvent | DMF | 9.0 mL | CN(C)C=O | C3H7NO
product | 1-(3-Fluoroisoquinoline-6-carbonyl)thiosemicarbazide | 0.86 g, 89% | FC=1N=CC2=CC=C(C=C2C1)C(=O)NNC(=S)N | C11H9FN4OS
